US06008245
A solution of 4.5 g of N-(6-benzyloxy-3-hydroxy-2,2-dimethylchroman-4-yl)-N-methyl-methanesulfonamide and 37 ml of acetic anhydride in 74 ml of pyridine was left to stand at RT overnight. The batch was concentrated under reduced pressure and the residue was dissolved in EA, washed successively with dilute hydrochloric acid and saturated sodium bicarbonate solution and dried over magnesium sulfate. Removal of the solvent under reduced pressure gave 4.7 g of N-(6-benzyloxy-3-acetoxy-2,2-dimethylchroman-4-yl)-N-methyl-methanesulfonamide, m.p. 124-125° C.

reactant | N-(6-benzyloxy-3-hydroxy-2,2-dimethylchroman-4-yl)-N-methyl-methanesulfonamide | 4.5 g | C(C1=CC=CC=C1)OC=1C=C2C(C(C(OC2=CC1)(C)C)O)N(S(=O)(=O)C)C | C20H25NO5S
reactant | acetic anhydride | 37 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 74 ml | N1=CC=CC=C1 | C5H5N
product | N-(6-benzyloxy-3-acetoxy-2,2-dimethylchroman-4-yl)-N-methyl-methanesulfonamide | 4.7 g | C(C1=CC=CC=C1)OC=1C=C2C(C(C(OC2=CC1)(C)C)OC(C)=O)N(S(=O)(=O)C)C | C22H27NO6S
